US04797492
5-Trifluoromethyl-3-aminoisoxazole
A mixture of 5-trifluormethyl-3-dimethylcarbamoylaminoisoxazole (1.15 g, 0.005 mole) and 36% hydrochloric acid (10 eq.) were reacted at 100° C. for 10 hours. The reaction mixture was worked up in the usual way to give the crude title compound. Crude yield: 0.20 g (26%).

reactant | 5-trifluormethyl-3-dimethylcarbamoylaminoisoxazole | 0.005 mole, 1.15 g | FC(C1=CC(=NO1)NC(N(C)C)=O)(F)F | C7H8F3N3O2
reactant | hydrochloric acid | 10 eq. | Cl | ClH
product | 5-Trifluoromethyl-3-aminoisoxazole | FC(C1=CC(=NO1)N)(F)F | C4H3F3N2O
